US08748613B2
Preparation of (R)-quinuclidin-3-yl 2-(piperidin-1-yl)-2-(thiophen-2-yl)acetate (C105)
A mixture of 2-(piperidin-1-yl)-2-(thiophen-2-yl)acetic acid (250 mg, 1.11 mmol), DCC (458 mg, 2.22 mmol), HOBT (300 mg, 2.22 mmol) and (R)-quinuclidin-3-ol (282 mg, 2.22 mmol) in dry THF (11.1 ml) was stirred at room temperature under nitrogen atmosphere for 24 hours. The pale pink suspension was filtered washing with THF (5 ml) and the pale pink solution was evaporated. The crude was purified by flash chromatography (DCM/MeOH=95/5+0.4% NH4OH) to obtain the title compound (132 mg, 35.6% yield) as a colorless oil.

reactant | 2-(piperidin-1-yl)-2-(thiophen-2-yl)acetic acid | 1.11 mmol, 250 mg | N1(CCCCC1)C(C(=O)O)C=1SC=CC1 | C11H15NO2S
reactant | DCC | 2.22 mmol, 458 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 2.22 mmol, 300 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-quinuclidin-3-ol | 2.22 mmol, 282 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 11.1 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(piperidin-1-yl)-2-(thiophen-2-yl)acetate | 132 mg, 35.6% yield | N1(CCCCC1)C(C(=O)O[C@H]1CN2CCC1CC2)C=2SC=CC2 | C18H26N2O2S
